US08754114B2
N-[3-(7-{1-[3-(Cyanomethyl)-1-(cyclopropylmethyl)azetidin-3-yl]-1H-pyrazol-4-yl}imidazo[1,2-b]pyridazin-3-yl)phenyl]-N′-(2,2,2-trifluoroethyl)urea
Cyclopropanecarboxaldehyde (4.2 mg, 0.060 mmol) was added to a mixture of N-[3-(7-{1-[3-(cyanomethyl)azetidin-3-yl]-1H-pyrazol-4-yl}imidazo[1,2-b]pyridazin-3-yl)phenyl]-N′-(2,2,2-trifluoroethyl)urea (15 mg, 0.030 mmol) in methanol (1.0 mL). After stirring at r.t. for 20 min, sodium triacetoxyborohydride (13 mg, 0.060 mmol) was added. The reaction mixture was stirred at r.t. for 4 h. The mixture was purified by RP-HPLC (pH=10) to afford the desired product. LCMS (M+H)+: m/z=550.2.

reactant | Cyclopropanecarboxaldehyde | 0.060 mmol, 4.2 mg | C1(CC1)C=O | C4H6O
reactant | N-[3-(7-{1-[3-(cyanomethyl)azetidin-3-yl]-1H-pyrazol-4-yl}imidazo[1,2-b]pyridazin-3-yl)phenyl]-N′-(2,2,2-trifluoroethyl)urea | 0.030 mmol, 15 mg | C(#N)CC1(CNC1)N1N=CC(=C1)C1=CC=2N(N=C1)C(=CN2)C=2C=C(C=CC2)NC(=O)NCC(F)(F)F | C23H20F3N9O
reactant | sodium triacetoxyborohydride | 0.060 mmol, 13 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | methanol | 1.0 mL | CO | CH4O
product | N-[3-(7-{1-[3-(Cyanomethyl)-1-(cyclopropylmethyl)azetidin-3-yl]-1H-pyrazol-4-yl}imidazo[1,2-b]pyridazin-3-yl)phenyl]-N′-(2,2,2-trifluoroethyl)urea | C(#N)CC1(CN(C1)CC1CC1)N1N=CC(=C1)C1=CC=2N(N=C1)C(=CN2)C=2C=C(C=CC2)NC(=O)NCC(F)(F)F | C27H26F3N9O
